US04550202
Preparation of N-(2,6-difluorobenzoyl)-N'-[4-(α-cyclopropyl-4-chlorobenzylideneaminooxymethyl)phenyl]urea (1).
36.6 g of 2,6-difluorobenzoylisocyanate in 50 ml of dry diethyl ether were added to a solution of 59.0 g 4-(α-cyclopropyl-4-chlorobenzylideneaminooxymethyl)aniline in 700 ml of dry diethylether with external cooling at 0°-10° C. After stirring for 3 hours at 0°-10° C. the formed precipitate was sucked off, washed with diethyl ether, and dried. The product obtained in a yield of 76.0 g was chromatographed over silica, chloroform being used as an eluent. The desired product was isolated in a yield of 60,7 g having a purity of at least 95% (PMR). The product obtained had a melting range of 145°-175° C. and comprised the syn- and anti-form in approximately equal amounts. In another experiment the desired product was obtained as a mixture of the syn- and anti-form in a ratio of 85:15; melting point 187°-191° C.

reactant | 2,6-difluorobenzoylisocyanate | 36.6 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
reactant | 4-(α-cyclopropyl-4-chlorobenzylideneaminooxymethyl)aniline | 59.0 g | C1(CC1)C(C1=CC=C(C=C1)Cl)=NOCC1=CC=C(N)C=C1 | C17H17ClN2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethylether | 700 ml | C(C)OCC | C4H10O
product | N-(2,6-difluorobenzoyl)-N'-[4-(α-cyclopropyl-4-chlorobenzylideneaminooxymethyl)phenyl]urea | FC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)CON=C(C2=CC=C(C=C2)Cl)C2CC2)C(=CC=C1)F | C25H20ClF2N3O3
